spice
* SPICE Netlist for the given schematic
VCC 3 0 DC 2.5V
Vin 5 0 DC 0V
R1 3 3 50k
R2 3 3 1k
? Missing component
R4 1 0 2k
C1 5 4 <value>
C2 1 0 <value>
Q1 3 4 1 QNPN   ; NPN transistor labeled Q1
.model QNPN NPN(IS=1e-14 BF=200)
.end
